US07259183B2
Preparation of 5-chloro-2-ethyl-1H-indole-7-carboxylic acid
The title compound was synthesized in analogy to 5-chloro-2-methyl-1H-indole-7-carboxylic acid (described in example S85) using 5-chloro-2-ethyl-1H-indole-7-carboxylic acid methyl ester (80 mg, 0.34 mmol) and 1N NaOH(aq) (505 μl, 0.51 mmol) in MeOH (5 ml). The desired product (74 mg, 98%) was isolated without further purification. MS (ISP) 222.3 (M−H)−.

reactant | 5-chloro-2-methyl-1H-indole-7-carboxylic acid | ClC=1C=C2C=C(NC2=C(C1)C(=O)O)C | C10H8ClNO2
reactant | 5-chloro-2-ethyl-1H-indole-7-carboxylic acid methyl ester | 0.34 mmol, 80 mg | COC(=O)C=1C=C(C=C2C=C(NC12)CC)Cl | C12H12ClNO2
reactant | NaOH | 0.51 mmol, 1N, 505 μl | [OH-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
product | 5-chloro-2-ethyl-1H-indole-7-carboxylic acid | 74 mg, 98% | ClC=1C=C2C=C(NC2=C(C1)C(=O)O)CC | C11H10ClNO2
